US08034812B2
Production of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide
A mixture of tert-butyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate (2.37 g, 4.62 mmol), 4N hydrochloric acid-ethyl acetate solution (50 mL) and methanol (50 mL) was stirred at room temperature for 6 hr. The solvent was evaporated under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate alone→ethyl acetate/methanol=4:1) to give the title compound (1.57 g, 82%) as a green solid.

reactant | tert-butyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate | 4.62 mmol, 2.37 g | FC(C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)NC(OC(C)(C)C)=O)C=CC2)C=CC1)(F)F | C25H22F3N5O4
reactant | hydrochloric acid ethyl acetate | 4N, 50 mL | Cl.C(C)(=O)OCC
solvent | methanol | 50 mL | CO | CH4O
product | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 1.57 g, 82% | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
